US07662809B2
Step 3: Methyl 2-{2-[(tert-butoxycarbonyl)amino]phenyl}-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate
To a solution of methyl 2-bromo-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate in dioxane (0.15 M) was added Na2CO3 (4 eq, 2 M aqueous solution), tert-butyl [2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate (1.5 eq) and bis(triphenylphosphine)palladium(II) dichloride (0.2 eq). The mixture was heated at reflux for 45 mins. The reaction mixture was filtered and then the filtrate was diluted with EtOAc. The organic phase was washed with H2O, brine and dried over Na2SO4 before being filtered and concentrated in vacuo. The crude was purified by flash chromatography (Biotage cartridge Si65i, 1:9 EtOAc/PE) to give the title compound as a white solid (60%); MS (ES+) m/z 535 (M+H)+.

reactant | methyl 2-bromo-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)OC | C20H24BrNO4
reactant | Na2CO3 | 2 M, 4 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl [2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 1.5 eq | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NC(OC(C)(C)C)=O)C | C17H26BNO4
solvent | dioxane | 0.15 M | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.2 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-{2-[(tert-butoxycarbonyl)amino]phenyl}-3-cyclohexyl-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate | 60% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)OC | C31H38N2O6
